US05166390
To a stirred, cooled (0° C.) solution of 3.0 g (0.0162 mol) of cis-3-(acetylthio)propenoyl chloride in 30 ml of dichloromethane under nitrogen was added dropwise 2.98 g (0.0163 mol) of cyclododecylamine as a solution in 30 ml of dichloromethane. After 15 min, 2.27 ml (0.0163 mol) of triethylamine was added dropwise. After 12 h the reaction mixture was poured into water and extracted three times with dichloromethane. The combined organic layers were washed with water, brine, and dried over magnesium sulfate. Filtration and removal of solvents gave 4.5 g of a 2:1 mixture of cis and trans isomers as a tan solid. Purification by flash column chromatography (Merck 60® silica gel, ethyl acetate/hexane eluant) gave 0.5 g (10% yield) of N-cyclododecyl-cis-3-(acetylthio)acrylamide as a white powder where NMR is reported in Table 2.

reactant | cis-3-(acetylthio)propenoyl chloride | 0.0162 mol, 3.0 g | C(C)(=O)S\C=C/C(=O)Cl | C5H5ClO2S
reactant | cyclododecylamine | 0.0163 mol, 2.98 g | C1(CCCCCCCCCCC1)N | C12H25N
reactant | triethylamine | 0.0163 mol, 2.27 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-cyclododecyl-cis-3-(acetylthio)acrylamide | 0.5 g, 10% yield | C1(CCCCCCCCCCC1)NC(\C=C/SC(C)=O)=O | C17H29NO2S
